US07888379B2
5-(Dihydroxyboryl)-2-thiophenecarboxylic acid (1 g; 5.82 mmol; 1 eq.) is dissolved in a mixture of Et2O (100 ml) and MeOH (5 ml). Pinacol (687.2 mg; 5.82 mmol; 1 eq.) is added. The reaction mixture is stirred at rt for 24 hours. To complete the reaction, some pinacol is added (200 mg; 1.7 mmol; 0.3 eq.) and the mixture is stirred for 12 additional hours. Water (50 ml) is added and the two phases are separated. Aqueous phase is extracted with ether (50 ml). Combined organic phases is dried over MgSO4, filtrated and evaporated, affording 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylic acid as white-off solid (1.33 g; 90%). 1H NMR (DMSO-d6, 300 MHz) δ 1.13 (s, 12H), 7.37 (d, J=3.8 Hz, 1H), 7.58 (d, J=3.8 Hz, 1H), 13.12 (s, 1H). M−(ESI): 253. HPLC, Rt: 0.98 min (purity: 100%).

reactant | 5-(Dihydroxyboryl)-2-thiophenecarboxylic acid | 5.82 mmol, 1 g, 1 eq. | OB(C1=CC=C(S1)C(=O)O)O | C5H5BO4S
reactant | Pinacol | 5.82 mmol, 687.2 mg, 1 eq. | OC(C)(C)C(C)(C)O | C6H14O2
reactant | Water | 50 ml | O | H2O
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | MeOH | 5 ml | CO | CH4O
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxylic acid | CC1(OB(OC1(C)C)C1=CC=C(S1)C(=O)O)C | C11H15BO4S
